US06395907B1
To a solution of 9-bromoanthracene (1.35 g, 5.25 mmol), triphenylphosphine (138 mg, 0.53 mmol), copper iodide (50 mg, 0.26 mmol), and bis(triphenylphosphine)palladium dichloride (74 mg, 0.11 mmol) in 1:1 triethylamine/benzene (35 mL) was added trimethylsilylacetylene (1.11 mL, 7.85 mmol) and the solution was heated at reflux 1 h. The cooled solution was diluted with ethyl ether (100 mL) and filtered. The organic was washed with H2O (3×100 mL), dried over Na2SO4, and filtered. Solvents were removed under reduced pressure to yield crude 9-anthracenyltrimethylsilylacetylene. The crude oil was dissolved in methanol (150 mL) and 3.5 M KOH(aq) (2 mL) was added and stirred 1 h. The reaction was quenched with H2O (150 mL) and the product was extracted with hexane (3×100 mL). The combined organic layers were dried over Na2SO4, filtered, and solvents were removed under reduced pressure to yield crude 9-anthracenylacetylene. The crude oil was dissolved in benzene (10 mL) and added to a solution of 4-bromophthalic anhydride (0.908 g, 4.0 mmol), triphenylphosphine (105 mg, 0.40 mmol), copper iodide (39 mg, 0.20 mmol), and bis(triphenylphosphine)palladium dichloride (56 mg, 0.08 mmol) in 2:1 triethylamine/benzene (30 mL) by cannula transfer and heated at reflux 1 h. The cooled solution was filtered and the precipitate was diluted with 0.5 M NaHCO3(aq) (100 mL) and stirred vigorously 1 h. The mixture was diluted with acetone (50 mL) and filtered. The crude product was recrystallized from toluene and dried under reduced pressure to yield 4-(9-anthracenylethynyl)phthalic anhydride (1.03 g, 73.8%) as a deep red solid. 1H NMR (DMSO-d6, 300 MHz) δ7.77 (t, J=7.1 Hz, 2H), 7.88 (t, J=7.2 Hz, 2H), 8.29-8.34 (m, 3H), 8.56 (d, 7.8 Hz, 1H), 8.75 (s, 1H), 8.83 (d, J=8.7 Hz, 2H), 8.92 (s, 1H).

reactant | 9-bromoanthracene | 5.25 mmol, 1.35 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | triphenylphosphine | 0.53 mmol, 138 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine benzene | 35 mL | C(C)N(CC)CC.C1=CC=CC=C1
reactant | trimethylsilylacetylene | 7.85 mmol, 1.11 mL | C[Si](C)(C)C#C | C5H10Si
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | copper iodide | 0.26 mmol, 50 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium dichloride | 0.11 mmol, 74 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 9-anthracenyltrimethylsilylacetylene | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C#C[Si](C)(C)C | C19H18Si
